US05854245
(E) Ethyl 4-(2-(4-(4-(1,1-dimethylethoxycarbonyl)piperazinyl)phenyl)ethenyl)phenoxyacetate (35-7)
To an oven dried 100 mL round bottomed flask with a stirring bar and an argon inlet was added 4-(ethoxycarbonylmethoxy)benzyltriphenyl-phosphonium bromide (1.106 g, 2.07 mmol) and dry THF (50 mL). To this well stirred mixture was added a solution of lithium hexamethyldisilylazide (2.20 mL of a 1M solution in THF). The deep red solution was stirred 1 h at ambient temperature then cooled in an ice bath to 0° C. To this mixture was added a solution of 4-(4-(1,1-dimethylethoxycarbonyl)piperazinyl)benzaldehyde (0.60 g, 2.07 mmol) in 10 mL of THF. The ice bath was removed and the solution was stirred at ambient temperature for 3 h. The reaction mixture was diluted with EtOAc and washed with water and brine. Drying (MgSO4), filtration and removal of the solvent in vacuo gave 1 g of an oil. This material was chromatographed on 80 g of silica gel using 25% EtOAc-hexane as eluant. There was obtained (E)-ethyl 4-(2-(4-(4-(1,1-dimethylethoxycarbonyl)piperazinyl)phenyl)ethenyl)phenoxyacetate 35-7 as an oil. 1H NMR (CDCl3): δ 1.26 (t, j=7 Hz, 3H), 1.49 (s, 9H), 3.16 (m, 4H), 3.57 (m, 4H), 4.27 (q, j=7 Hz, 2H), 4.60 (s, 2H), 6.90 (m, 6H), 7.40 (m, 4H), and 175 mg of a mixture of E,Z isomers.

reactant | 4-(ethoxycarbonylmethoxy)benzyltriphenyl-phosphonium bromide | 2.07 mmol, 1.106 g | [Br-].C(C)OC(=O)COC1=CC=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1
reactant | 4-(4-(1,1-dimethylethoxycarbonyl)piperazinyl)benzaldehyde | 2.07 mmol, 0.60 g | CC(C)(OC(=O)N1CCN(CC1)C1=CC=C(C=O)C=C1)C | C16H22N2O3
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | Ethyl 4-(2-(4-(4-(1,1-dimethylethoxycarbonyl)piperazinyl)phenyl)ethenyl)phenoxyacetate | 1 g | CC(C)(OC(=O)N1CCN(CC1)C1=CC=C(C=C1)C=CC1=CC=C(OCC(=O)OCC)C=C1)C | C27H34N2O5
